US03987047
9-Chloro-2,3,4,5-tetrahydro-11-phenyl-1H-2-azepino[4,3-b]quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 9-chloro-2,3,4,5-tetrahydro-11-phenyl-1H-azepino[4,3-b]quinoline and ethyl chloroformate analogous to Example 63.

reactant | 9-chloro-2,3,4,5-tetrahydro-11-phenyl-1H-azepino[4,3-b]quinoline | ClC1=CC=2C(=C3C(=NC2C=C1)CCCNC3)C3=CC=CC=C3 | C19H17ClN2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 9-Chloro-2,3,4,5-tetrahydro-11-phenyl-1H-2-azepino[4,3-b]quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 89% | Cl.C(C)OC(=O)N1CC=2C(=NC=3C=CC(=CC3C2C2=CC=CC=C2)Cl)CCC1 | InChI=1S/C22H21ClN2O2.ClH/c1-2-27-22(26)25-12-6-9-19-18(14-25)21(15-7-4-3-5-8-15)17-13-16(23)10-11-20(17)24-19;/h3-5,7-8,10-11,13H,2,6,9,12,14H2,1H3;1H
